US06268370B1
(c) 4-(4-Methyl piperazinyl)sulfonamido benzaldehyde
To a solution of oxalyl chloride (1.06 mL, 12.1 mmol) in CH2Cl2 (20 mL) was added DMSO (1.8 mL, 25.4 mmol.) at −60° C. and the mixture was stirred for 25 min. A solution of 4-(4-methyl piperazinyl)sulfonamido benzyl alcohol (3.0 g, 10.5 mmol) in CH2Cl2 (25 mL) and DMSO (5 mL) was added and the mixture was stirred for 1.5 h at −60° C. Triethylamine (7.4 mL) was added and the mixture was partitioned between brine and EtOAc. The organic extract was concentrated, then purified by flash chromatography to yield the title compound (1.0 g, 33%).

reactant | oxalyl chloride | 12.1 mmol, 1.06 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(4-methyl piperazinyl)sulfonamido benzyl alcohol | 10.5 mmol, 3.0 g | CN1CCN(CC1)S(=O)(=O)NC1=CC=C(CO)C=C1 | C12H19N3O3S
reactant | Triethylamine | 7.4 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | DMSO | 25.4 mmol, 1.8 mL | CS(=O)C | C2H6OS
product | 4-(4-Methyl piperazinyl)sulfonamido benzaldehyde | 1.0 g, 33% | CN1CCN(CC1)S(=O)(=O)NC1=CC=C(C=O)C=C1 | C12H17N3O3S
